US07994185B2
Step H: N-[3-[5-(2-Chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-(methyloxy)phenyl]-2,6-difluorobenzenesulfonamide
To a solution of 3-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-(methyloxy)aniline (10 g, 28 mmol), in DCM (100 mL) was added pyridine (6.6 g, 83.7 mmol) and the mixture was cooled to 0° C. 2,6-Difluorobenzene-1-sulfonyl chloride (5.9 g, 27.9 mmol) in DCM (100 mL) was added dropwise to the mixture. The reaction was stirred at rt for 4 h. Then the reaction was washed with water (200 mL), and extracted with DCM (2×200 mL). The organic layer was washed with brine, dried over anhydrous NaSO4, filtrated and concentrated under reduced pressure to give the crude product, which was purified by column chromatography on silica gel (petroleum ether:DCM 1:1) to afford the title compound of Step H (8.7 g, 58.2% yield). 1H NMR (400 MHz, CDCl3) δ ppm 8.21 (d, J=5.6 Hz, 1H), 7.70-7.75 (m, 1H), 7.63-7.67 (br, 1H), 7.46-7.55 (m, 1H), 7.15-7.19 (m, 2H), 6.95-7.03 (m, 2H), 6.58 (d, J=5.6 Hz, 1H), 3.35-3.40 (m, 4H), 1.44 (d, J=6.4 Hz, 6H). m/z (ES+): 537 [M+H]+.

reactant | 3-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-(methyloxy)aniline | 28 mmol, 10 g | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C(=C(N)C=CC1)OC | C17H17ClN4OS
reactant | pyridine | 83.7 mmol, 6.6 g | N1=CC=CC=C1 | C5H5N
reactant | 2,6-Difluorobenzene-1-sulfonyl chloride | 27.9 mmol, 5.9 g | FC1=C(C(=CC=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | N-[3-[5-(2-Chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-(methyloxy)phenyl]-2,6-difluorobenzenesulfonamide | 8.7 g, 58.2% yield | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)OC | C23H19ClF2N4O3S2
